US06803378B2
N-(4-Methoxy-benzyl)-N-methyl-acetamide
Sodium hydride (60% in mineral oil) (1.11 grams, 27.4 mmol) was measured into a round bottom flask and triturated with hexanes. To this was added pure N-(4-methoxybenzyl)-acetamide (1.23 grams, 6.9 mmol) followed by iodomethane (1.95 grams, 13.7 mmol)and the resulting mixture stirred overnight. The reaction was filtered and the solvent removed under vacuum. The crude product was purified by flash column chromatography (SiO2, 2% EtOH in methylene chloride) to yield 1.2 grams of a colorless oil. HRMS (M+H) calcd for C11H16NO2: 194.1181; found: 194.1177. 1H NMR and 13C NMR show a mixture of rotamers at room temperature. 1H NMR (500 MHz, CDCl3) δ: 2.13 (s), 2.15 (s), 2.89 (s), 2.90 (s), 3.78 (s), 3.80 (s), 4.45 (s), 4.50 (s), 6.86 (m), 7.08 (d, J=9), 7.17 (d, J=9). 13C NMR (125 MHz, CDCl3) δ: 21.50, 21.91, 33.49, 35.33, 49.95, 53.72, 55.28, 113.95, 114.32, 127.66, 128.46, 129.44, 129.52, 158.95, 159.13, 170.63, 170.91.

reactant | Sodium hydride | 27.4 mmol, 1.11 grams | [H-].[Na+]
reactant | N-(4-methoxybenzyl)-acetamide | 6.9 mmol, 1.23 grams | COC1=CC=C(CNC(C)=O)C=C1 | C10H13NO2
reactant | iodomethane | 13.7 mmol, 1.95 grams | IC | CH3I
product | N-(4-Methoxy-benzyl)-N-methyl-acetamide | 1.2 grams | COC1=CC=C(CN(C(C)=O)C)C=C1 | C11H15NO2
